US07678798B2
t-Butyl 4-[(3S)-4-Benzyl-3-methylpiperazin-1-yl]-4-methylpiperidine-1-carboxylate
A solution of tert-butyl 4-[(3S)-4-benzyl-3-methylpiperazin-1-yl]-4-cyanopiperidine-1-carboxylate (242 g, 0.605 mol) in tetrahydrofuran (1.5 L) in a 5 L flask was cooled down to −40° C. using dry ice/acetonitrile. Methylmagnesium bromide (3.0 M in tetrahydrofuran, 800 mL) was slowly added. After the addition, the reaction mixture was slowly warmed up to room temperature and stirred overnight. After cooling down to −40° C. using dry ice/acetonitrile, celite (200 g), and then ethyl acetate (500 mL) were carefully added. After the addition, the mixture was stirred for 4 hours while the temperature slowly rose to room temperature. The reaction mixture was cooled back down to −40° C. again, and water (200 mL), and then methanol (1.5 L) were added. After being stirred at room temperature overnight, the mixture was filtered through a thin layer of sand. The cake was taken back into a 5 L flask and stirred with methanol (2 L) for 5 hours. Insoluble solid was filtered off. The combined filtrates were concentrated to dryness. Methylene chloride (3.5 L) was added.

reactant | tert-butyl 4-[(3S)-4-benzyl-3-methylpiperazin-1-yl]-4-cyanopiperidine-1-carboxylate | 0.605 mol, 242 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N)C | C23H34N4O2
reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | Methylmagnesium bromide | 3.0 M, 800 mL | C[Mg]Br
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
solvent | methanol | 1.5 L | CO | CH4O
solvent | water | 200 mL | O | H2O
product | t-Butyl 4-[(3S)-4-Benzyl-3-methylpiperazin-1-yl]-4-methylpiperidine-1-carboxylate | C(C1=CC=CC=C1)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C23H37N3O2
